US04146721
10 grams diisovalerylmethane (as described by Swamer and Hauser), were reacted with 1.3 gram of a 50% suspension of sodium hydride in paraffin oil and 10 grams bromoacetic acid-ethylester by a procedure analogous to that described in Example (2b). The benzene solution obtained in this procedure was evaporated and the residue of crude 3,3-diisovalerylpropionic acid-ethyl ester obtained thereby was mixed with 6.5 grams phenylhydrazine and 4 grams glacial acetic acid and the mixture was heated to the boiling temperature under reflux for 2 hours. The reaction mixture obtained thereby was then worked up in accordance with a procedure analogous to that described in Example (1a). The ester thus recovered was saponified and the free acid recovered by a procedure analogous to that described in Example (1b). 7.5 grams 3,5-diisobutyl-1-phenyl-pyrazol-4-acetic acid, melting at 125°-126° C., were obtained representing a yield of 44% on the diisovalerylmethane starting material.

reactant | diisovalerylmethane | 10 grams | C(CC(C)C)(=O)CC(CC(C)C)=O | C11H20O2
reactant | sodium hydride | [H-].[Na+]
reactant | bromoacetic acid-ethylester | 10 grams | C(C)OC(CBr)=O | C4H7BrO2
reactant | phenylhydrazine | 6.5 grams | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | 4 grams | C(C)(=O)O | C2H4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,5-diisobutyl-1-phenyl-pyrazol-4-acetic acid | 7.5 grams, yield of 44% | C(C(C)C)C1=NN(C(=C1CC(=O)O)CC(C)C)C1=CC=CC=C1 | C19H26N2O2
